US09403849B2
a) 1,4-Bis(4-di(4-bromophenyl)aminostyryl)benzene
A solution of 37.8 g (100 mmol) of p-xylene diethylphosphonate in 200 ml of DMF is added to a suspension, cooled to 0° C., of 38.5 g (400 mmol) of sodium tert-butoxide in 1000 ml of anhydrous DMF. After the mixture has been stirred for a further 30 min., a solution of 90.5 g (210 mmol) of bis(4-bromophenyl)(4-formylphenyl)amine in 300 ml of DMF is added over the course of 30 min., the mixture is stirred at 0° C. for a further 4 h, and then 500 ml of 1N hydrochloric acid and 300 ml of ethanol are added. The solid is filtered off with suction, washed three times with 300 ml of water and three times with 200 ml of ethanol and dried under reduced pressure. The product is subsequently recrystallised from DMF, filtered off with suction, washed three times with 200 ml of ethanol and dried under reduced pressure. Yield: 86.1 g (92 mmol), 92.3% of theory; purity: 99% according to 1H-NMR.

reactant | p-xylene diethylphosphonate | 100 mmol, 37.8 g | C(C)OP(OCC)=O.C1(=CC=C(C=C1)C)C
reactant | sodium tert-butoxide | 400 mmol, 38.5 g | CC(C)([O-])C.[Na+]
reactant | bis(4-bromophenyl)(4-formylphenyl)amine | 210 mmol, 90.5 g | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=O)C1=CC=C(C=C1)Br | C19H13Br2NO
reactant | hydrochloric acid | 1N, 500 ml | Cl | ClH
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1,4-Bis(4-di(4-bromophenyl)aminostyryl)benzene | BrC1=CC=C(C=C1)N(C1=CC=C(C=CC2=CC=C(C=C2)C=CC2=CC=C(C=C2)N(C2=CC=C(C=C2)Br)C2=CC=C(C=C2)Br)C=C1)C1=CC=C(C=C1)Br | C46H32Br4N2
